US08729061B2
(2S,4R)-1-(2-Nitro-phenyl)-4-(2-trifluoromethyl-benzenesulfonyl)-pyrrolidine-2-carboxylic acid [(S)-1-(benzooxazole-2-carbonyl)-propyl]-amide
The title compound was prepared in analogy to Example 1, using (2S,4R)-1-(2-nitrophenyl)-4-(2-(trifluoromethyl)phenylsulfonyl)pyrrolidine-2-carboxylic acid (prepared as described in U.S. Pat. Appl. US20100267722) and (2S)-2-amino-1-(benzo[d]oxazol-2-yl)butan-1-ol dihydrochloride in step 1. MS (m/e)=631.15 [M+H+].

reactant | (2S,4R)-1-(2-nitrophenyl)-4-(2-(trifluoromethyl)phenylsulfonyl)pyrrolidine-2-carboxylic acid | [N+](=O)([O-])C1=C(C=CC=C1)N1[C@@H](C[C@H](C1)S(=O)(=O)C1=C(C=CC=C1)C(F)(F)F)C(=O)O | C18H15F3N2O6S
reactant | (2S)-2-amino-1-(benzo[d]oxazol-2-yl)butan-1-ol dihydrochloride | Cl.Cl.N[C@H](C(O)C=1OC2=C(N1)C=CC=C2)CC
product | (2S,4R)-1-(2-Nitro-phenyl)-4-(2-trifluoromethyl-benzenesulfonyl)-pyrrolidine-2-carboxylic acid [(S)-1-(benzooxazole-2-carbonyl)-propyl]-amide | O1C(=NC2=C1C=CC=C2)C(=O)[C@H](CC)NC(=O)[C@H]2N(C[C@@H](C2)S(=O)(=O)C2=C(C=CC=C2)C(F)(F)F)C2=C(C=CC=C2)[N+](=O)[O-] | C29H25F3N4O7S
